US07220759B2
By the reaction in the same manner as in Example 2a, using 5-methyl-3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride (1 g) and 1-bromo-2-propanol (994 mg), 5-methyl-3-[1-(2-hydroxypropyl)piperidin-4-yl]-2H-isoquinolin-1-one (147 mg) was obtained.

reactant | 5-methyl-3-(piperidin-4-yl)-2H-isoquinolin-1-one hydrochloride | 1 g | Cl.CC1=C2C=C(NC(C2=CC=C1)=O)C1CCNCC1
reactant | 1-bromo-2-propanol | 994 mg | BrCC(C)O | C3H7BrO
product | 5-methyl-3-[1-(2-hydroxypropyl)piperidin-4-yl]-2H-isoquinolin-1-one | 147 mg | CC1=C2C=C(NC(C2=CC=C1)=O)C1CCN(CC1)CC(C)O | C18H24N2O2
